US07410631B2
Comparative Example 1 involves the preparation of aluminum phosphate without using an organosilane. A homogeneous solution of aluminum s-butoxide (0.082 gm, 0.33 mmol) in methoxyethanol (0.5 ml) is prepared in a glass vial containing a magnetic stir bar. It is stirred for ½ hr after addition of ethylphosphate (0.06 gm, 0.33 mmol). Addition of DI water (0.010 gm, 0.56 mmol) results in the formation of a milky gel. After diluting with 0.5 ml methoxyethanol, the resulting milky solution is stirred at room temperature/overnight. Addition of DI water (0.010 gm, 0.56 mmol) followed by stirring at RT/overnight and 100° C./2 hrs generates white precipitates. The solution is applied to a glass plate to form a highly opaque non-uniform coating. White solid residues obtained after removing the volatiles are not soluble in methoxyethanol even heated to 120° C. in the presence of phenyltrimethoxysilane.

reactant | aluminum phosphate | P(=O)([O-])([O-])[O-].[Al+3]
reactant | ethylphosphate | 0.33 mmol, 0.06 gm | C(C)OP(=O)([O-])[O-]
reactant | DI water | 0.56 mmol, 0.010 gm | O | H2O
reactant | DI water | 0.56 mmol, 0.010 gm | O | H2O
reactant | methoxyethanol | 0.5 ml | COC(C)O | C3H8O2
reactant | methoxyethanol | 0.5 ml | COC(C)O | C3H8O2
product | aluminum s-butoxide | 0.33 mmol, 0.082 gm | CCC(C)[O-].CCC(C)[O-].CCC(C)[O-].[Al+3] | InChI=1S/3C4H9O.Al/c3*1-3-4(2)5;/h3*4H,3H2,1-2H3;/q3*-1;+3
